US07544672B2
Step 1: tert-Butyl-but-3-ynyl-amine
A solution of toluene-4-sulfonic acid but-3-ynyl ester (1.57 g, 7.1 mmol) in tert-BuNH2 (3.54 g. 48 mmol) was heated to reflux for 18 h. The reaction mixture was diluted with Et2O (20 mL), filtered, and concentrated to afford the title product. 1H NMR (CDCl3) δ 2.74 (t, 2H), 2.38 (td, 2H), 2.00 (t, 1H), 1.12 (s, 9H).

reactant | toluene-4-sulfonic acid but-3-ynyl ester | 7.1 mmol, 1.57 g | C(CC#C)OS(=O)(=O)C1=CC=C(C=C1)C | C11H12O3S
reactant | tert-BuNH2 | 48 mmol, 3.54 g | C(C)(C)(C)N | C4H11N
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | tert-Butyl-but-3-ynyl-amine | C(C)(C)(C)NCCC#C | C8H15N
